*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 4.1
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_0 1 2 3 4 REF
C_C1 1 REF 0.3374445618132pf
C_C2 1 2 18.466652222689pf
C_C3 1 3 0.0173808100512pf
C_C4 1 4 0.2498307777481pf
C_C5 2 REF 0.5864200777494pf
C_C6 2 3 0.1153436932783pf
C_C7 3 REF 0.4966804634659pf
C_C8 3 4 6.5115670894609pf
C_C9 4 REF 0.4895603363688pf
L_L1 3 5 1.3012945554743nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_1 1 2 3 4 REF
C_C1 1 REF 0.3338390286334pf
C_C2 1 2 18.66021780694pf
C_C3 1 3 0.0163039593931pf
C_C4 1 4 0.2532908364048pf
C_C5 2 REF 0.5873524895054pf
C_C6 2 3 0.1167406090056pf
C_C7 3 REF 0.4964019715364pf
C_C8 3 4 4.8386900722236pf
C_C9 4 REF 0.489788773932pf
L_L1 3 5 1.3026491100994nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_2 1 2 3 4 REF
C_C1 1 REF 0.3297928511262pf
C_C2 1 2 18.8766898643pf
C_C3 1 3 0.0157297467733pf
C_C4 1 4 0.2560816480766pf
C_C5 2 REF 0.5875096360393pf
C_C6 2 3 0.1175884327915pf
C_C7 3 REF 0.4961267976011pf
C_C8 3 4 3.6474741198781pf
C_C9 4 REF 0.4900091697191pf
L_L1 3 5 1.3037992408819nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_3 1 2 3 4 REF
C_C1 1 REF 0.3251986348758pf
C_C2 1 2 19.184910385394pf
C_C3 1 3 0.0155442581642pf
C_C4 1 4 0.2589584863733pf
C_C5 2 REF 0.5879975632115pf
C_C6 2 3 0.1180160940456pf
C_C7 3 REF 0.495826293505pf
C_C8 3 4 2.5920922437825pf
C_C9 4 REF 0.4902476498277pf
L_L1 3 5 1.3049973366465nh
R_RL1 5 4 -1.114592305e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_4 1 2 3 4 REF
C_C1 1 REF 0.3207560813699pf
C_C2 1 2 19.605199206806pf
C_C3 1 3 0.0147682354642pf
C_C4 1 4 0.2629688999613pf
C_C5 2 REF 0.5896383084207pf
C_C6 2 3 0.11895226382pf
C_C7 3 REF 0.4955820494325pf
C_C8 3 4 1.7226325438472pf
C_C9 4 REF 0.4904316703214pf
L_L1 3 5 1.3062276170757nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_5 1 2 3 4 REF
C_C1 1 REF 0.3172241245811pf
C_C2 1 2 20.089941400483pf
C_C3 1 3 0.012294329869pf
C_C4 1 4 0.2688541664801pf
C_C5 2 REF 0.5925017887856pf
C_C6 2 3 0.1214828337208pf
C_C7 3 REF 0.4954963521449pf
C_C8 3 4 1.141507843941pf
C_C9 4 REF 0.4904683805979pf
L_L1 3 5 1.3072305306506nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_6 1 2 3 4 REF
C_C1 1 REF 0.3140611020438pf
C_C2 1 2 20.645485232765pf
C_C3 1 4 0.2763757534002pf
C_C4 2 REF 0.5964338662197pf
C_C5 2 3 0.1252335724155pf
C_C6 3 REF 0.495524269981pf
C_C7 3 4 0.7522103812963pf
C_C8 4 REF 0.4903964768585pf
L_L1 3 5 1.3080352914403nh
R_RL1 5 4 1.0126146663e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_7 1 2 3 4 REF
C_C1 1 REF 0.3100528135549pf
C_C2 1 2 21.399286912749pf
C_C3 1 4 0.2856954654931pf
C_C4 2 REF 0.602299942761pf
C_C5 2 3 0.1293420180275pf
C_C6 3 REF 0.49559676628pf
C_C7 3 4 0.4584346866925pf
C_C8 4 REF 0.4902727744239pf
L_L1 3 5 1.3087518105046nh
R_RL1 5 4 2.0329141989e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_8 1 2 3 4 REF
C_C1 1 REF 0.3043746734414pf
C_C2 1 2 22.403254675547pf
C_C3 1 4 0.2961608857326pf
C_C4 2 REF 0.6104497732395pf
C_C5 2 3 0.1325874072765pf
C_C6 3 REF 0.4956096627367pf
C_C7 3 4 0.2492171889949pf
C_C8 4 REF 0.4901979217444pf
L_L1 3 5 1.3093756911125nh
R_RL1 5 4 2.3998087272e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_9 1 2 3 4 REF
C_C1 1 REF 0.2959431410917pf
C_C2 1 2 23.765810051651pf
C_C3 1 4 0.3094616974702pf
C_C4 2 REF 0.6214736068421pf
C_C5 2 3 0.1357674091409pf
C_C6 3 REF 0.4955331776514pf
C_C7 3 4 0.107363343814pf
C_C8 4 REF 0.4901969255007pf
L_L1 3 5 1.3098763542769nh
R_RL1 5 4 2.128034248e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_10 1 2 3 4 REF
C_C1 1 REF 0.2838663737565pf
C_C2 1 2 25.607625443583pf
C_C3 1 4 0.3283820427359pf
C_C4 2 REF 0.6358540616223pf
C_C5 2 3 0.1409101579813pf
C_C6 3 REF 0.4953911027809pf
C_C7 3 4 0.0111769717599pf
C_C8 4 REF 0.4902453290123pf
L_L1 1 5 82.885054784171nh
R_RL1 5 2 -0.078662034867
L_L2 3 6 1.3102733744634nh
R_RL2 6 4 1.3799531871e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_11 1 2 3 4 REF
C_C1 1 REF 0.2664981926758pf
C_C2 1 2 28.177557331618pf
C_C3 1 4 0.356171448575pf
C_C4 2 REF 0.6550552295861pf
C_C5 2 3 0.1496424101373pf
C_C6 3 REF 0.4951883395563pf
C_C7 4 REF 0.4903427294426pf
L_L1 1 5 51.146708651095nh
R_RL1 5 2 -0.015858912984
L_L2 3 6 1.3102111606348nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_12 1 2 3 4 REF
C_C1 1 REF 0.2416054051037pf
C_C2 1 2 31.81333474268pf
C_C3 1 4 0.3960559519627pf
C_C4 2 REF 0.6813722225322pf
C_C5 2 3 0.1628531398132pf
C_C6 3 REF 0.494908888678pf
C_C7 4 REF 0.4905212720406pf
L_L1 1 5 31.138207733786nh
R_RL1 5 2 0.0847736778624
L_L2 3 6 1.3099792656752nh
R_RL2 6 4 -1.0837113e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_13 1 2 3 4 REF
C_C1 1 REF 0.2042577670071pf
C_C2 1 2 37.238745795479pf
C_C3 1 4 0.4553378152183pf
C_C4 2 REF 0.7199577846341pf
C_C5 2 3 0.1826145203811pf
C_C6 3 REF 0.4945087411402pf
C_C7 4 REF 0.4908563568891pf
L_L1 1 5 18.651353570404nh
R_RL1 5 2 0.1888536782017
L_L2 3 6 1.3095783713387nh
R_RL2 6 4 -2.963179713e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_14 1 2 3 4 REF
C_C1 1 REF 0.1459096635737pf
C_C2 1 2 45.694429383852pf
C_C3 1 4 0.5472282886758pf
C_C4 2 REF 0.7796561333537pf
C_C5 2 3 0.2130982041405pf
C_C6 3 REF 0.493933764281pf
C_C7 4 REF 0.4914591696688pf
L_L1 1 5 10.876252853857nh
R_RL1 5 2 -0.500308459048
L_L2 3 6 1.3089767501511nh
R_RL2 6 4 1.1827069466e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_15 1 2 3 4 REF
C_C1 1 REF 0.045232547527pf
C_C2 1 2 60.250050718306pf
C_C3 1 4 0.7048582405189pf
C_C4 2 REF 0.8820887036165pf
C_C5 2 3 0.2650990724531pf
C_C6 3 REF 0.4932033214634pf
C_C7 4 REF 0.4924418906811pf
L_L1 1 5 6.0951084672897nh
R_RL1 5 2 -0.255032339675
L_L2 3 6 1.3079501400719nh
R_RL2 6 4 1.6378267355e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_16 1 2 3 4 REF
C_C1 1 2 91.306955902951pf
C_C2 1 4 1.0407760236267pf
C_C3 2 REF 1.1001148102095pf
C_C4 2 3 0.375588553571pf
C_C5 3 REF 0.4924894528932pf
C_C6 4 REF 0.4941183051736pf
L_L1 1 5 2.2177131956274nh
R_RL1 5 2 -0.015118700157
L_L2 1 6 92.261043472858nh
R_RL2 6 3 -0.012042582927
L_L3 1 7 91.501617569943nh
R_RL3 7 4 -0.014744528406
L_L4 2 8 92.297233318846nh
R_RL4 8 3 -8.346948879e-4
L_L5 2 9 91.54034778742nh
R_RL5 9 4 -3.582212266e-3
L_L6 3 10 1.3058423616151nh
R_RL6 10 4 -3.569386429e-5
Kn_K1 L_L1 L_L2 0.076254942638
Kn_K2 L_L1 L_L3 0.0764815649604
Kn_K3 L_L1 L_L4 -0.078769520584
Kn_K4 L_L1 L_L5 -0.079183643608
Kn_K5 L_L2 L_L3 0.9929023433467
Kn_K6 L_L2 L_L4 0.9879836887914
Kn_K7 L_L2 L_L5 0.98082326771
Kn_K8 L_L2 L_L6 -0.0940788323
Kn_K9 L_L3 L_L4 0.9808522951584
Kn_K10 L_L3 L_L5 0.9878841491707
Kn_K11 L_L3 L_L6 0.0249938992201
Kn_K12 L_L4 L_L5 0.9929051758685
Kn_K13 L_L4 L_L6 -0.093944687842
Kn_K14 L_L5 L_L6 0.0251047870452
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_17 1 2 3 4 REF
C_C1 1 2 182.0447454573pf
C_C2 1 4 2.0222166022157pf
C_C3 2 REF 1.7354532612293pf
C_C4 2 3 0.6981622361627pf
C_C5 3 REF 0.4903165522745pf
C_C6 4 REF 0.5001875746379pf
R_R1 1 2 961.3464665596
L_L1 1 5 0.7486112201736nh
R_RL1 5 2 -4.756756187e-3
L_L2 1 6 35.81895896657nh
R_RL2 6 3 -2.069608946e-3
L_L3 1 7 35.112505354534nh
R_RL3 7 4 -2.440329923e-3
L_L4 2 8 35.916596000911nh
R_RL4 8 3 9.5386465435e-4
L_L5 2 9 35.213741030649nh
R_RL5 9 4 6.4077241868e-4
L_L6 3 10 1.2998282853063nh
R_RL6 10 4 -3.188685313e-4
Kn_K1 L_L1 L_L2 0.0628563452657
Kn_K2 L_L1 L_L3 0.0631345687228
Kn_K3 L_L1 L_L4 -0.08160035336
Kn_K4 L_L1 L_L5 -0.082761136899
Kn_K5 L_L2 L_L3 0.9817235624791
Kn_K6 L_L2 L_L4 0.98956520977
Kn_K7 L_L2 L_L5 0.971146610165
Kn_K8 L_L2 L_L6 -0.147015284089
Kn_K9 L_L3 L_L4 0.9712734633788
Kn_K10 L_L3 L_L5 0.9893561910518
Kn_K11 L_L3 L_L6 0.0439162358773
Kn_K12 L_L4 L_L5 0.9817740360597
Kn_K13 L_L4 L_L6 -0.146551981408
Kn_K14 L_L5 L_L6 0.0441190190893
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_18 1 2 3 4 REF
C_C1 1 2 861.70914944466pf
C_C2 1 4 9.3756715549204pf
C_C3 2 REF 6.4845623997426pf
C_C4 2 3 3.1153446409828pf
C_C5 3 REF 0.4729341616168pf
C_C6 4 REF 0.5511694509484pf
R_R1 1 2 147.69132982816
L_L1 1 5 12.661809903715nh
R_RL1 5 REF 0.0037457538551
L_L2 1 6 0.1069524679952nh
R_RL2 6 2 -8.60683159e-4
L_L3 1 7 6.4859421930839nh
R_RL3 7 3 -6.642596649e-4
L_L4 1 8 5.8364393480673nh
R_RL4 8 4 -4.930072996e-4
L_L5 2 9 12.593251610713nh
R_RL5 9 REF 0.0028129507699
L_L6 2 10 6.510659705748nh
R_RL6 10 3 -2.467560356e-4
L_L7 2 11 5.8658249344833nh
R_RL7 11 4 -1.136898416e-5
L_L8 3 12 19.025047803642nh
R_RL8 12 REF 0.0031822364818
L_L9 3 13 1.2555136139652nh
R_RL9 13 4 -2.73009603e-4
L_L10 4 14 18.36833236099nh
R_RL10 14 REF 0.0035329625915
Kn_K1 L_L1 L_L2 0.0754102627155
Kn_K2 L_L1 L_L5 0.9957687766429
Kn_K3 L_L1 L_L8 0.8118495417351
Kn_K4 L_L1 L_L10 0.8259984819983
Kn_K5 L_L2 L_L3 0.049367885149
Kn_K6 L_L2 L_L4 0.0490881813649
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.078894889549
Kn_K9 L_L2 L_L7 -0.086065112849
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8993613217889
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9917725296382
Kn_K15 L_L3 L_L7 0.8904396070672
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.333788589734
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8913609182061
Kn_K21 L_L4 L_L7 0.9908636561839
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1119349332412
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8110433610875
Kn_K26 L_L5 L_L10 0.8250239105005
Kn_K27 L_L6 L_L7 0.8997786141146
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.332338013099
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1125142724945
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1956303923502
Kn_K35 L_L8 L_L10 0.9665732487913
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_19 1 2 3 4 REF
C_C1 1 REF 12.925523984283pf
C_C2 1 3 6.4313901245502pf
C_C3 2 4 19.375844851109pf
C_C4 3 REF 0.5379859770148pf
C_C5 4 REF 0.3509164722054pf
R_R1 1 2 -124.077534915
L_L1 1 5 4.8835455798901nh
R_RL1 5 REF 7.1353330798e-4
L_L2 1 6 0.4061338165297nh
R_RL2 6 2 0.0225133410021
L_L3 1 7 3.1255444577984nh
R_RL3 7 3 0.0104793442635
L_L4 1 8 2.5799698628246nh
R_RL4 8 4 0.013797255267
L_L5 2 9 5.260085620237nh
R_RL5 9 REF 0.025547861669
L_L6 2 10 3.0003953358977nh
R_RL6 10 3 0.0020774664316
L_L7 2 11 2.3872642587167nh
R_RL7 11 4 0.0010655173808
L_L8 3 12 8.0137257055198nh
R_RL8 12 REF 0.0127500468502
L_L9 3 13 1.1832786717403nh
R_RL9 13 4 2.9981018501e-5
L_L10 4 14 7.4778012063515nh
R_RL10 14 REF 0.0163890361519
Kn_K1 L_L1 L_L2 0.01050674496
Kn_K2 L_L1 L_L5 0.9606237702699
Kn_K3 L_L1 L_L8 0.7810097625385
Kn_K4 L_L1 L_L10 0.8093109538823
Kn_K5 L_L2 L_L3 0.2357753819523
Kn_K6 L_L2 L_L4 0.2925085016773
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.127270822756
Kn_K9 L_L2 L_L7 -0.108376970568
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0487257953543
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7962565846447
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.933897516281
Kn_K16 L_L3 L_L7 0.730522333611
Kn_K17 L_L3 L_L8 0.9762504452263
Kn_K18 L_L3 L_L9 -0.449491807463
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7050754890046
Kn_K22 L_L4 L_L7 0.9189292233703
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.182489702421
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0310563748098
Kn_K27 L_L5 L_L7 0.0239231158664
Kn_K28 L_L5 L_L8 0.7911725937568
Kn_K29 L_L5 L_L9 -0.015473351213
Kn_K30 L_L5 L_L10 0.8251883963642
Kn_K31 L_L6 L_L7 0.7854753715112
Kn_K32 L_L6 L_L8 1.0
Kn_K33 L_L6 L_L9 -0.476697252124
Kn_K34 L_L6 L_L10 1.0
Kn_K35 L_L7 L_L8 1.0
Kn_K36 L_L7 L_L9 0.1696147179229
Kn_K37 L_L7 L_L10 1.0
Kn_K38 L_L8 L_L9 0.2791492420065
Kn_K39 L_L8 L_L10 0.9241708719087
Kn_K40 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_20 1 2 3 4 REF
C_C1 1 2 404.83096570594pf
C_C2 1 4 4.4315137059263pf
C_C3 2 REF 3.2999505000636pf
C_C4 2 3 1.4894864518087pf
C_C5 3 REF 0.4829312710619pf
C_C6 4 REF 0.5155228741568pf
L_L1 1 5 20.388799804046nh
R_RL1 5 REF 0.0080984822784
L_L2 1 6 0.1072095639749nh
R_RL2 6 2 -1.206903428e-4
L_L3 1 7 9.2664228687567nh
R_RL3 7 3 -2.561271767e-4
L_L4 1 8 8.5960615107249nh
R_RL4 8 4 -4.815338835e-5
L_L5 2 9 20.212654473567nh
R_RL5 9 REF 0.0078677311083
L_L6 2 10 9.3283038285917nh
R_RL6 10 3 -1.794766112e-4
L_L7 2 11 8.6654890882767nh
R_RL7 11 4 3.4155532939e-5
L_L8 3 12 29.471104566712nh
R_RL8 12 REF 0.0077178207464
L_L9 3 13 1.2706407142998nh
R_RL9 13 4 -1.274968821e-4
L_L10 4 14 28.792218918635nh
R_RL10 14 REF 0.0082522339776
Kn_K1 L_L1 L_L2 0.0958270519039
Kn_K2 L_L1 L_L5 0.9973688510666
Kn_K3 L_L1 L_L8 0.8280036801639
Kn_K4 L_L1 L_L10 0.8375325568709
Kn_K5 L_L2 L_L3 0.0227389039606
Kn_K6 L_L2 L_L4 0.0196783313844
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.084541737176
Kn_K9 L_L2 L_L7 -0.091630219653
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.010223373011
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.9295202092956
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9942399158416
Kn_K16 L_L3 L_L7 0.9232598417922
Kn_K17 L_L3 L_L8 1.0
Kn_K18 L_L3 L_L9 -0.282832011553
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.9243223931924
Kn_K22 L_L4 L_L7 0.9937971501033
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.0908159795615
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.8267274773439
Kn_K27 L_L5 L_L10 0.836084218118
Kn_K28 L_L6 L_L7 0.930015668587
Kn_K29 L_L6 L_L8 1.0
Kn_K30 L_L6 L_L9 -0.280796344741
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.0915885820901
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.159290371974
Kn_K36 L_L8 L_L10 0.9782578248925
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_21 1 2 3 4 REF
C_C1 1 2 77.15024458044pf
C_C2 1 4 0.8854686903232pf
C_C3 2 REF 1.0156099093432pf
C_C4 2 3 0.323195888516pf
C_C5 3 REF 0.4902651740245pf
C_C6 4 REF 0.4898979707947pf
L_L1 1 5 0.4191653051955nh
R_RL1 5 2 -1.208264897e-3
L_L2 1 6 44.28811170987nh
R_RL2 6 3 -8.59964654e-4
L_L3 1 7 43.495966920932nh
R_RL3 7 4 -6.943177271e-4
L_L4 2 8 44.693002747823nh
R_RL4 8 3 -4.95101299e-4
L_L5 2 9 43.909457508927nh
R_RL5 9 4 -2.821807245e-4
L_L6 3 10 1.2983896197518nh
R_RL6 10 4 -1.763367966e-5
Kn_K1 L_L1 L_L4 -0.095195074864
Kn_K2 L_L1 L_L5 -0.097042921932
Kn_K3 L_L2 L_L3 0.9852493958444
Kn_K4 L_L2 L_L4 0.9952995818888
Kn_K5 L_L2 L_L5 0.9804375839499
Kn_K6 L_L2 L_L6 -0.137841891866
Kn_K7 L_L3 L_L4 0.9807120129908
Kn_K8 L_L3 L_L5 0.9952154923119
Kn_K9 L_L3 L_L6 0.0336824438003
Kn_K10 L_L4 L_L5 0.9853844284677
Kn_K11 L_L4 L_L6 -0.136651642675
Kn_K12 L_L5 L_L6 0.0340929379682
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_22 1 2 3 4 REF
C_C1 1 REF 0.2843937361711pf
C_C2 1 2 29.178412981988pf
C_C3 1 4 0.3656140664099pf
C_C4 2 REF 0.6858800366874pf
C_C5 2 3 0.1514004177271pf
C_C6 3 REF 0.4904725447071pf
C_C7 4 REF 0.4851634257595pf
L_L1 1 5 0.8289383126569nh
R_RL1 5 2 -4.887625911e-3
L_L2 3 6 1.302543266731nh
R_RL2 6 4 1.2295084938e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_23 1 2 3 4 REF
C_C1 1 REF 0.3922230443775pf
C_C2 1 2 14.629051512812pf
C_C3 1 3 0.0510270397381pf
C_C4 1 4 0.2069643458449pf
C_C5 2 REF 0.5908667639902pf
C_C6 2 3 0.0978533161578pf
C_C7 3 REF 0.4896270991569pf
C_C8 4 REF 0.4826749013211pf
L_L1 1 5 1.1979061885177nh
R_RL1 5 2 -3.965144094e-3
L_L2 3 6 1.3008727517466nh
R_RL2 6 4 1.9253038538e-4
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_24 1 2 3 4 REF
C_C1 1 REF 0.4388936430268pf
C_C2 1 2 9.0283863211526pf
C_C3 1 3 0.0773744111603pf
C_C4 1 4 0.1443386660269pf
C_C5 2 REF 0.5599794953907pf
C_C6 2 3 0.0750506802674pf
C_C7 2 4 0.0183755592434pf
C_C8 3 REF 0.488266286771pf
C_C9 4 REF 0.4805250278805pf
L_L1 1 5 1.7021459692755nh
R_RL1 5 2 -1.055000548e-4
L_L2 3 6 1.298622510982nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_25 1 2 3 4 REF
C_C1 1 REF 0.464659313688pf
C_C2 1 2 6.6891343497656pf
C_C3 1 3 0.0951258622991pf
C_C4 1 4 0.1154207318617pf
C_C5 2 REF 0.5541821474032pf
C_C6 2 3 0.061786532117pf
C_C7 2 4 0.0520111933838pf
C_C8 3 REF 0.4864041870044pf
C_C9 4 REF 0.4781424156407pf
L_L1 1 5 1.8737600934471nh
R_RL1 5 2 -5.792328765e-4
L_L2 3 6 1.2957369334175nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_26 1 2 3 4 REF
C_C1 1 REF 0.476413611404pf
C_C2 1 2 6.0639961895658pf
C_C3 1 3 0.1061285499219pf
C_C4 1 4 0.104770639044pf
C_C5 2 REF 0.5583242152578pf
C_C6 2 3 0.0543778746697pf
C_C7 2 4 0.0664465350322pf
C_C8 3 REF 0.4848649282895pf
C_C9 4 REF 0.4763024002362pf
L_L1 1 5 1.9359642108526nh
R_RL1 5 2 7.0038217231e-5
L_L2 3 6 1.2944999345934nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param29_26

